US04999377
Methyl 4-[2-(2-hydroxy-3-phenoxypropylamino)ethyl]-phenoxyacetate hydrochloride (3.0 g) was suspended in 2N hydrochloric acid (150 ml) and heated on the steam bath for 2 hours. A clear solution was produced, from which the product crystallised on cooling. The crystals were filtered off, washed with a small volume of 2N hydrochloric acid followed by ether, and dried over phosphorus pentoxide. Thus was obtained 4-[2-(2-hydroxy-3-phenoxypropylamino)-ethyl]phenoxyacetic acid hydrochloride (2.04 g) mp 192°-94° C.; NMR 2.86-3.33[m,6H, CH2NHCH2CH2 ]: 4.02[m,2H, PhOCH2 ]; 4.22[m,1H,CHOH]; 4.63[s,2H, OCH2CO]; 6.84-7.38[m,9H, aromatic H]: microanalysis: found C, 59.8; H, 6.3; N, 3.5; Cl, 9.3%; C19H23NO5.HCl requires: C, 59.8; H, 6.3; N,3.7; Cl, 9.3 %.

reactant | Methyl 4-[2-(2-hydroxy-3-phenoxypropylamino)ethyl]-phenoxyacetate hydrochloride | 3.0 g | Cl.OC(CNCCC1=CC=C(OCC(=O)OC)C=C1)COC1=CC=CC=C1
solvent | hydrochloric acid | 2N, 150 ml | Cl | ClH
product | 4-[2-(2-hydroxy-3-phenoxypropylamino)-ethyl]phenoxyacetic acid hydrochloride | 2.04 g | Cl.OC(CNCCC1=CC=C(OCC(=O)O)C=C1)COC1=CC=CC=C1 | InChI=1S/C19H23NO5.ClH/c21-16(13-24-17-4-2-1-3-5-17)12-20-11-10-15-6-8-18(9-7-15)25-14-19(22)23;/h1-9,16,20-21H,10-14H2,(H,22,23);1H
